US06900227B2
Preparation of 4-fluoro-5-(piperidine-1-sulfonyl)-benzene-1,2-diol
A 1M solution of boron tribromide in dichloromethane (58 mL) was added dropwise to a cooled solution of 1-(2-fluoro-4,5-dimethoxy-benzenesulfonyl)-piperidine (5.89 g, 19.42 mmol) in dichloromethane (100 mL), maintaining the temperature between 10 and 20° C. The mixture was stirred overnight at room temperature and poured into 1M aqueous potassium dihydrogenphosphate and ice. After stirring 1 h, the phases were separated and the aqueous phase extracted with ethyl acetate. The combined organic phases were washed with brine, dried over magnesium sulfate and evaporated. The residue was purified by column chromatography on silica gel (10:1 dichloromethane/methanol eluant) to afford the title compound as a brown gum (4.17 g, 78%)

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 1-(2-fluoro-4,5-dimethoxy-benzenesulfonyl)-piperidine | 19.42 mmol, 5.89 g | FC1=C(C=C(C(=C1)OC)OC)S(=O)(=O)N1CCCCC1 | C13H18FNO4S
reactant | potassium dihydrogenphosphate | 1M | P(=O)(O)(O)[O-].[K+]
solvent | dichloromethane | 58 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-fluoro-5-(piperidine-1-sulfonyl)-benzene-1,2-diol | 4.17 g, 78% | FC=1C=C(C(=CC1S(=O)(=O)N1CCCCC1)O)O | C11H14FNO4S
